US08242116B2
N-Benzyl-6-methylpyridazin-3-amine
To a stirred solution of 3-chloro-6-methylpyridazine (215 mg, 1.66 mmol) and benzylamine (267 mg, 2.5 mmol) in toluene (20 mL) was added sodium tert-butoxide (480 mg, 5.0 mmol) and [1,1′-bis(di-tert-butylphosphino)ferrocene]palladium(II) dichloride (20 mg). The reaction mixture was stirred at 140° C. under microwave irradiation for 2 h, then cooled to room temperature and concentrated in vacuo. The residue was purified by column chromatography (SiO2, 0-100% EtOAc/heptane) to give the title compound (302 mg, 91%) as an off-white solid. δH (CDCl3) 7.25-7.41 (5H, m), 7.02 (1H, d, J 9.0 Hz), 6.55 (1H, d, J 9.0 Hz), 4.91 (1H, s), 4.60 (2H, d, J 5.8 Hz), 2.53 (3H, s). LCMS (ES+) 200 (M+H)+, RT 2.50 minutes (Method 2).

reactant | 3-chloro-6-methylpyridazine | 1.66 mmol, 215 mg | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | benzylamine | 2.5 mmol, 267 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 5.0 mmol, 480 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | [1,1′-bis(di-tert-butylphosphino)ferrocene]palladium(II) dichloride | 20 mg | CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.[Cl-].[Cl-].[Fe+2].[Pd+2]
product | N-Benzyl-6-methylpyridazin-3-amine | 302 mg, 91% | C(C1=CC=CC=C1)NC=1N=NC(=CC1)C | C12H13N3
